US08809380B2
Step 2. ethyl 3-(((R)-1-(trans-4-(trifluoromethyl)cyclohexanecarbonyl)pyrrolidin-2-yl)methoxy)picolinate
The title compound was prepared according to the procedure described in Step 5 of EXAMPLE 31 using (R)-ethyl 3-(pyrrolidin-2-ylmethoxy)picolinate bis(trifluoroactetic acid) salt (EXAMPLE 34 Step 1) and trans-4-(trifluoromethyl)cyclohexanecarboxylic acid instead of ammonium chloride and 5-methoxy-3-(((R)-1-(trans-4-(trifluoromethyl)cyclohexanecarbonyl)pyrrolidin-2-yl)m ethoxy)picolinic acid.

reactant | (R)-ethyl 3-(pyrrolidin-2-ylmethoxy)picolinate | N1[C@H](CCC1)COC=1C(=NC=CC1)C(=O)OCC | C13H18N2O3
reactant | trans-4-(trifluoromethyl)cyclohexanecarboxylic acid | FC([C@@H]1CC[C@H](CC1)C(=O)O)(F)F | C8H11F3O2
reactant | 5-methoxy-3-(((R)-1-(trans-4-(trifluoromethyl)cyclohexanecarbonyl)pyrrolidin-2-yl)m ethoxy)picolinic acid | COC=1C=C(C(=NC1)C(=O)O)OC[C@@H]1N(CCC1)C(=O)[C@@H]1CC[C@H](CC1)C(F)(F)F | C20H25F3N2O5
product | ethyl 3-(((R)-1-(trans-4-(trifluoromethyl)cyclohexanecarbonyl)pyrrolidin-2-yl)methoxy)picolinate | FC([C@@H]1CC[C@H](CC1)C(=O)N1[C@H](CCC1)COC=1C(=NC=CC1)C(=O)OCC)(F)F | C21H27F3N2O4
